US03963742
Preparation of 4-(p-Chlorophenoxy)-1-methyl-3,5-diphenylpyrazole
A solution of sodium nitrite (3.1 g, 0.0442 mole) in water (10 ml) is added slowly at 0° to 5°C to a well stirred, chilled solution of 4-(p-aminophenoxy)-1-methyl-3,5-diphenylpyrazole (15.1 g, 0.0442 mole) in concentrated hydrochloric acid (50 ml).

reactant | sodium nitrite | 0.0442 mole, 3.1 g | N(=O)[O-].[Na+]
reactant | 4-(p-aminophenoxy)-1-methyl-3,5-diphenylpyrazole | 0.0442 mole, 15.1 g | NC1=CC=C(OC=2C(=NN(C2C2=CC=CC=C2)C)C2=CC=CC=C2)C=C1 | C22H19N3O
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 4-(p-Chlorophenoxy)-1-methyl-3,5-diphenylpyrazole | ClC1=CC=C(OC=2C(=NN(C2C2=CC=CC=C2)C)C2=CC=CC=C2)C=C1 | C22H17ClN2O
